datasets/10k_Mayr_OG.csv
SMILES Labelled
CC1=CC=C([C@H]2N(C)[C:62](=[O:63])[C@H:61](CC3=CC=CC=C3)[NH:10]2)O1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10]2[C@@H](C3=CC=C(C)O3)N(C)[C:62](=[O:63])[C@@H:61]2CC2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.CCCC[Ge:11](CCCC)(CCCC)[H:10]>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1.CCCC[Ge+:11](CCCC)CCCC 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCCCC2)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:62][CH:11]([H:10])[O:12]1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1>>C1C[O:62][CH:11]=[O+:12]1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CCCC[Sn](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CCCC[Sn](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14"
"C1CC[N:72]([C:61]([S-:10])=[S:62])C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C[CH:20]([S:10][C:61](=[S:62])[N:72]5CCCC5)C1C2C43 10=20;20,21=21"
"C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:62]1=[CH:61][N:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:11]=[NH+:12]1 10,11=10,20;12=11,12"
C1CC[N:72]([C:61]([S-:10])=[S:62])CC1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([S:10][C:61](=[S:62])[N:72]2CCCCC2)([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10=20
"CC1(C)C[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2([I+:11]C3=CC=CC=C3)[C:71](=[O:72])CC(C)(C)C[C:91]2=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
C1=CC=C([C:61]([CH-:10][C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)=[O:62])C=C1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[CH:10]2CCC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[NH2:10][NH2:61]>>CC[O:34][C:32]([C:21]([CH:20]([NH2+:10][NH2:61])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33].[H:10][CH:11]1[C:12]2=[C:13]([O:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2>>[CH:11]1=[C:12]2[C:13](=[O+:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2.[H:10][CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
